US04443365
Ozone stream was bubled into a solution of methyl 2-propyl-6-heptenoate (2 g) in glacial acetic acid (80 ml) for 55 minutes at room temperature. Ether (100 ml) was added to the resulting mixture, followed by the portionwise addition of zinc powder (10 g) and water (1.1 ml) under cooling. The mixture was heated under reflux until KI-starch test became negative. After cooling, ether (100 ml) was added to the mixture, which was then filtered. The organic layer was separated, washed with water, dried and concentrated. The resulting residue was purified by silica gel column chromatography to give oil of methyl 5-formyl-2-propylpentanoate (1.1 g).

reactant | Ozone | O=[O+][O-] | O3
reactant | methyl 2-propyl-6-heptenoate | 2 g | C(CC)C(C(=O)OC)CCCC=C | C11H20O2
reactant | Ether | 100 ml | CCOCC | C4H10O
reactant | water | 1.1 ml | O | H2O
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 10 g | [Zn] | Zn
product | methyl 5-formyl-2-propylpentanoate | 1.1 g | C(=O)CCCC(C(=O)OC)CCC | C10H18O3
